US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-{[2-(2-methylpropyl)pyrrolidin-1-yl]carbonyl}thiophene-2-carboxamide
The title compound was prepared as described in Example 1A, substituting), 2-isobutylpyrrolidine for 3-methylbutan-1-amine and lithium 5-(imidazo[1,2-a]pyridin-7-ylmethylcarbamoyl)thiophene-2-carboxylate for 4-nitrobenzoic acid. 1H NMR (300 MHz, DMSO-d6) ppm 9.23 (t, J=6.0 Hz, 1H), 8.49 (dd, J=6.9, 0.9 Hz, 1H), 7.90-7.88 (m, 1H), 7.79 (d, J=4.0 Hz, 1H), 7.60 (d, J=4.0 Hz, 1H), 7.52 (d, J=1.2 Hz, 1H), 7.42-7.39 (m, 1H), 6.85 (dd, J=7.0, 1.7 Hz, 1H), 4.49 (d, J=5.9 Hz, 2H), 4.35-4.23 (m, 1H), 3.78-3.65 (m, 2H), 3.26 (s, 3H), 2.02-1.81 (m, 4H); MS (ESI(+)) m/e 411 (M+H)+.

reactant | 2-isobutylpyrrolidine | C(C(C)C)C1NCCC1 | C8H17N
reactant | 3-methylbutan-1-amine | CC(CCN)C | C5H13N
reactant | lithium 5-(imidazo[1,2-a]pyridin-7-ylmethylcarbamoyl)thiophene-2-carboxylate | N=1C=CN2C1C=C(C=C2)CNC(=O)C2=CC=C(S2)C(=O)[O-].[Li+]
reactant | 4-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-{[2-(2-methylpropyl)pyrrolidin-1-yl]carbonyl}thiophene-2-carboxamide | N=1C=CN2C1C=C(C=C2)CNC(=O)C=2SC(=CC2)C(=O)N2C(CCC2)CC(C)C | C22H26N4O2S
